US07531532B2
4-{2-Fluoro-4-[3-(2-phenylacetyl)ureido]phenoxy}-2-[(pyrrolidin-1-yl)carbonylamino]pyridine
2-Phenylacetamide (128 mg) was dissolved in 1,2-dichloroethane (10 ml) under a nitrogen atmosphere, and then oxalyl chloride (0.103 ml) was added thereto, followed by stirring at 120° C. overnight. The reaction mixture was concentrated under a reduced pressure to give a residue, which was then dissolved in N,N-dimethylformamide (3.2 ml) under a nitrogen atmosphere. 4-(4-amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine (100 mg) was then added thereto, followed by stirring for 30 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was purified by silica gel column chromatography (FUJI Silysia NH, eluent; hexane:ethyl acetate=1:3). Fractions containing the target compound were concentrated to give a residue, to which ethyl acetate (2 ml)-hexane (10 ml) was added to precipitate crystals. The crystals were filtered off and dried under aeration to provide the titled compound (113 mg, 75%) as white crystals.

reactant | 2-Phenylacetamide | 128 mg | C1(=CC=CC=C1)CC(=O)N | C8H9NO
reactant | oxalyl chloride | 0.103 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 100 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
reactant | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | N,N-dimethylformamide | 3.2 ml | CN(C=O)C | C3H7NO
solvent | hexane | 10 ml | CCCCCC | C6H14
product | 4-{2-Fluoro-4-[3-(2-phenylacetyl)ureido]phenoxy}-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 113 mg, 75% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC(=C1)NC(=O)NC(CC1=CC=CC=C1)=O | C25H24FN5O4
